US05166214
Part C, Method 2. To a solution of 5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentanoic acid (2.0 g, 0.0057 mol) in toluene (35 mL) was added heptylamine (1.63 mL, 1.27 g, 0.011 mol) and then boron trifluoride etherate (1.35 mL, 1.56 g, 0.011 mol) and the reaction mixture was stirred at reflux for 120 hours using a Dean-Stark moisture trap. The reaction mixture was cooled, extracted with 0.1N NaOH, 0.1N HCl, and water, and the combined organic extracts were dried over magnesium sulfate and concentrated under vacuum. The residue was chromatographed and worked-up as described in Part C, Method 1, to give 5-(4,5-diphenyl-1H-imidazol-2-ylthio)-N-heptylpentanamide (2.35 g, 0.005 mol) as a white solid.

reactant | 5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentanoic acid | 0.0057 mol, 2.0 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCC(=O)O | C20H20N2O2S
reactant | heptylamine | 0.011 mol, 1.63 mL, 1.27 g | C(CCCCCC)N | C7H17N
reactant | boron trifluoride etherate | 0.011 mol, 1.35 mL, 1.56 g | B(F)(F)F.CCOCC
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4,5-diphenyl-1H-imidazol-2-ylthio)-N-heptylpentanamide | 0.005 mol, 2.35 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCC(=O)NCCCCCCC | C27H35N3OS
